Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p thrombectomy

 
Major Surgical or Invasive Procedure:
tPA
thrombectomy

 
History of Present Illness:
___ with HTN, HLD, DM who felt right sided weakness at the 
time if a minor MVA at 10:20am. He was transferred to ___ where 
NIHSS was 15. He was given tpa at 11:25am. Repeat NIHSS was 10. 
There was a hyperdense sign on ___. He was transferred to 
___ for possible intervention. On arrival to ED, NIHSS was 4 
(RLE drift, right face, aphasia, dysarthria) and a code stroke 
was called.  
 On neuro ROS, right sided weakness with language issues. 
Otherwise, the pt denies headache, changes in vision, 
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or 
hearing difficulty. No bowel or bladder incontinence or 
retention.  
 
Past Medical History:
HTN  
HLD  
DM  

 
Social History:
___
Family History:
Mother - no cad, stroke or htn. deceased
Father - longstanding "arrhythmia" -deceased
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: obese 
- Extremities: no edema
- Skin: no rashes or lesions noted.
 
NEURO EXAM: 
- Mental Status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive to exam. Some paraphasic
errors with repeating. Difficultly naming objects on the stroke
card. Mild dysarthria.  

- Cranial Nerves:
PERRL 3 to 2mm and brisk. VFF to confrontation. EOMI. Facial
sensation intact to light touch and pinprick. Right facial 
droop.
Hearing intact to room voice. 

- Motor: Normal bulk and tone throughout. Drift with the right
lower extremity. Able to hold the right arm extended and steady
x10s. Spontaneous antigravity movement on the left. 

- Sensory: Denies deficits to light touch and pinprick.
- ___: WD vs up in the right toe
- Coordination: No dysmetria on FNF 
- Gait: Deferred 

DISCHARGE PHYSICAL EXAM:
General: Obese, well appearing, middle age male
HEENT: mucous membranes moist
Neck: obese, but soft.  no masses or nodules
CV: irregular, S1, S2
Lungs: clear to auscultation 
Abdomen: large round soft, + BS
GU: foley. clear yellow urine
Ext: no edema

Mental Status: Alert, focuses, follows examiner, follows 
commands
consistently. Expressive, nonfluent aphasia. Can repeat 
multiword
phrases despite severe dysarthria. Difficulty with answering
questions involving multiple articles. Naming appears intact.  
Cranial Nerves: PERRL 3 to 2mm and brisk. EOMI. Right facial
droop. 
Motor: Mild pronation of right arm. ___ strength throughout
Sensory: Difficult to test with language difficulties
___: deferred
___: No ataxia. Mildly slow finger tap on the right
compared to the left. 
Gait: Deferred  
DISCHARGE PHYSICAL EXAM:
General: Obese, well appearing, middle age male
HEENT: mucous membranes moist
Neck: obese, but soft.  no masses or nodules
CV: irregular, S1, S2
Lungs: clear to auscultation 
Abdomen: large round soft, + BS
GU: foley. clear yellow urine
Ext: no edema

Mental Status: Awake, alert, regards and follows examiner well,
follows commands consistently. Nonfluent aphasia present. Can
repeat multiword phrases with severe dysarthria (notably with
guttural sounds). Naming appears intact.  
Cranial Nerves: PERRL 3 to 2mm and brisk. EOMI. Mild right 
facial
droop. 
Motor: Decreased finger tapping on R, R sided pronation, ___
strength throughout
Sensory: Intact to LT b/l throughout UEs and ___: deferred
___: No ataxia. Mildly slow finger tap on the right
compared to the left. 
Gait: Deferred  
 
Pertinent Results:
Admission Labs
.
___ 04:45PM BLOOD WBC-11.4* RBC-4.43* Hgb-13.2* Hct-39.1* 
MCV-88 MCH-29.8 MCHC-33.8 RDW-13.4 RDWSD-43.3 Plt ___
___ 02:10AM BLOOD WBC-13.8* RBC-4.46* Hgb-13.2* Hct-39.3* 
MCV-88 MCH-29.6 MCHC-33.6 RDW-13.6 RDWSD-43.2 Plt ___
___ 04:45PM BLOOD ___ PTT-29.4 ___
___ 01:10PM BLOOD Glucose-200* UreaN-15 Creat-1.1 Na-138 
K-4.4 Cl-99 HCO3-24 AnGap-19
___ 04:45PM BLOOD CK-MB-3 cTropnT-<0.01
___ 02:10AM BLOOD Calcium-8.9 Phos-3.5 Mg-1.4* Cholest-147
___ 04:45PM BLOOD %HbA1c-7.1* eAG-157*
___ 02:10AM BLOOD Triglyc-128 HDL-31 CHOL/HD-4.7 LDLcalc-90
___ 04:45PM BLOOD TSH-3.4
___ 04:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:45PM URINE Color-Straw Appear-Clear Sp ___
___ 04:45PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 04:45PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 07:43AM URINE Mucous-RARE
___ 04:45PM URINE Hours-RANDOM
___ 04:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 07:05AM BLOOD WBC-8.3 RBC-4.16* Hgb-12.5* Hct-36.7* 
MCV-88 MCH-30.0 MCHC-34.1 RDW-13.6 RDWSD-42.8 Plt ___
___ 07:10AM BLOOD ___ PTT-28.2 ___
___ 07:05AM BLOOD Glucose-117* UreaN-10 Creat-1.0 Na-141 
K-4.1 Cl-104 HCO3-24 AnGap-17
___ 07:05AM BLOOD Calcium-8.7 Phos-4.3 Mg-1.9
.
Urine and Blood cultures - NGTD
.
Echo
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
and cavity size are normal. There is severe global left 
ventricular hypokinesis (LVEF = ___ %). The estimated cardiac 
index is borderline low (2.0-2.5L/min/m2). No masses or thrombi 
are seen in the left ventricle. Doppler parameters are 
indeterminate for left ventricular diastolic function. The right 
ventricular cavity is mildly dilated with moderate mid to distal 
free wall hypokinesis. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. There is at least moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 
.
 IMPRESSION: Suboptimal image quality. Severe global left 
ventricular hypokinesis with severe hypokinesis of the apex. 
Mildly dilated right ventricle with moderate free wall 
hypokinesis. Mildly dilated aortic arch. Mild mitral 
regurgitation. Moderate pulmonary hypertension.  
..
=======
CT BRAIN PERFUSION AND CTA HEAD AND NECK
=======
 
1.  Dental amalgam streak artifact and motion limits study. 
2. No acute intracranial hemorrhage. 
3. Occlusion in the mid M1 segment of the left middle cerebral 
artery with 
reconstitution distally of at least one M2 and distal branches, 
with 
diminished flow suggested in the other left M2 and distal 
division. 
4. Increased mean transit time throughout the left middle 
cerebral artery 
distribution without definite focal decrease in blood volume, 
suggestive of left middle cerebral artery territories penumbra 
without definite core 
infarct.  Please note MRI of the brain is more sensitive for the 
detection of acute infarct. 
5. Question left temporal acute to subacute infarct versus 
averaging. 
6. Nonspecific prominent mediastinal and cervical lymph nodes 
without definite enlargement by CT size criteria, which may be 
reactive. 
.
======
NEURO INTERVENTION
======
Left common carotid artery: Carotid bifurcations 
well-visualized. There is 
no significant atherosclerosis or carotid stenosis. 
  
Left internal carotid artery: Distal left ICA, proximal and 
distal and ACA 
branches are well-visualized. Robust PCOM compatible with fetal 
variant.  
Critical narrowing at the distal M1 by contrast flow void that 
represent a 
clot in the distal M1, after the fourth pass,re-establishment of 
flow in the territory but with delay in the capillary phase. 
Otherwise vessel caliber smooth and tapering. Normal arterial, 
capillary, and venous phase . No 
vascular abnormalities identified . 
  
Right common femoral artery: Well-visualized with a good caliber 
size for 
closure device. 
  
  
I, ___, participated in the procedure. I, ___ 
___, was present for the entirety of the procedure and 
supervised all critical steps. 
  
I, ___, have reviewed the report and agree with the 
fellow's 
findings. 
  
IMPRESSION:  
.
Critical narrowing at the distal left M1 by contrast flow void 
that represent a clot in the distal M1, after the fourth pass, 
re-establishment of flow in the territory but with delay in the 
capillary phase. 
.
========
MR HEAD W/O CONTRAST ___
=========
.
1. Late acute infarcts of the left middle frontal and orbital 
frontal gyrus as 
well as left caudate and putamen, left temporal lobe and 
additional punctate 
foci of left parietal lobe infarcts a left MCA distribution. 
2. There is interval petechial hemorrhagic transformation of the 
left orbital 
frontal and temporal lobe infarcts. 
3. No midline shift.  Additional findings as described above. 
.
=========
CT HEAD WITHOUT CONTRAST ___
=========
.
1. Evolving acute infarctions in the left frontal and temporal 
lobes, left 
caudate, and left putamen, as seen on the preceding MRI.  
Additional small 
cortical foci of acute infarction in the parietal, temporal, and 
occipital 
lobes, seen on the prior MRI, are not well demonstrated on CT. 
2. Only minimal gyriform hyperdensity in the supraorbital left 
frontal lobe, 
corresponding to the more extensive petechial hemorrhage seen on 
the preceding 
MRI. 
3. No significant mass effect at this time. 
=============
___
=============
Evolving left MCA infarct without definite new infarcts or 
intracranial 
hemorrhage.  No midline shift. 

=============
___
=============
 Large partially mobile thrombus in the left atrial appendage. 
 
Brief Hospital Course:
___ with HTN, HLD, DM who felt right sided weakness and was 
transferred to ___ where ___ showed hyperdense sign.  NIHSS 
was 15. He was given tpa at 11:25am. Repeat NIHSS was 10. He was 
transferred to ___ for possible intervention.  On arrival to 
ED, NIHSS was 4.  Imaging showed clot in the left M1 with large 
area of mismatch on CT perfusion. There was significant 
discussion regarding the risk benefit of thrombectomy. However, 
as the patient was only 3 hours from his last known normal and 
there was a significant portion of cortex at risk. The decision 
was made to go for clot retrieval knowing that it was possible 
that the patient would worsen significantly without 
intervention. 
.
Neurologic: 
Pt was given tPA at ___ and underwent ___ clot retrieval 
for L MCA thrombus. 24 hr post tpa showed a small degree of 
hyperdensity in left frontal region consistent with evolving 
infarct vs hemorrhagic conversion. ASA and SQH were started 24 
hour after tPA. TSH 3.4. He was seen on MRI to have infarcts in 
L MCA distribution. He was transferred out of Neuro ICU to ___ 
and monitored on q2 neurochecks. Heis exam was seen to improve 
with only persisting nonfluent aphasia. He worked with ___ 
while inpatient. On ___, he underwent repeat NCHCT which was 
negative for new hemorrhage and patient was started on Eliquis 
for AC therapy. He was recommended for discharge home outpatient 
___. 
.
Cardiovascular: 
He was found to be in atrial fibrillation with RVR that did not 
respond to two doses of Lopressor. Diltiazem gtt was started and 
titrated up for rate control. Patient was maintained with SBP 
goal 100-180. Echocardiogram showed ___ dilation, no ASD, 
severe global left ventricular hypokinesis (LVEF = ___ %), 
right RV dilation with moderate mid to distal free wall 
hypokinesis. He was later started on Eliquis for AC therapy as 
noted above. He was switched to q6 Diltiazem titrated for 
appropriate HR control while inpatient. Pt had continued 
tachycardia with physical exertion with no relief from ___ rate 
control agent (Metoprolol). He was evaluated by Cardiology and 
underwent TEE with planned cardioversion on ___, although seen 
to have mobile thrombus in left atrial appendage. He was started 
on Digoxin with Diltiazem stopped. After discussion with 
Cardiology and pt's family, decided to continue with Eliquis for 
AC therapy >1 month prior to repeat TEE with cardioversion as 
well as outpatient event monitor. 

Endocrine:  
Found to have undiagnosed DM with A1C 7.1. He was maintained on 
Insulin sliding scale and diabetic diet.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed – () No
2. DVT Prophylaxis administered? (X) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No
4. LDL documented? (X) Yes (LDL = 90) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (X) Yes - () No [if 
LDL if LDL >70, reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL]
6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No
9. Discharged on statin therapy? (X) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (X) Yes [Type: () 
Antiplatelet - (X) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (X) Yes - () No - () N/A

 
Medications on Admission:
atorvastatin 20
metformin 500
omeprazole 40 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*60 Tablet Refills:*2 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Every evening Disp 
#*30 Tablet Refills:*2 
3.  Digoxin 0.25 mg PO DAILY 
RX *digoxin 250 mcg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
4.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
5.  Metoprolol Succinate XL 150 mg PO DAILY 
RX *metoprolol succinate 100 mg 1.5 tablet(s) by mouth Daily 
Disp #*45 Tablet Refills:*0 
6.  MetFORMIN (Glucophage) 500 mg PO BID  
7.  Pantoprazole 40 mg PO Q24H  
8.Outpatient Physical Therapy
9.Outpatient Speech/Swallowing Therapy
10.Outpatient Occupational Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke due to occlusion in left middle cerebral 
artery

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of right sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms. You received blood thinner medication 
to break up blockage in major blood vessel as well as vascular 
intervention to retrieve this clot.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
High blood pressure
High cholesterol
Diabetes

We are changing your medications as follows:
Please continue taking Eliquis 5mg twice daily
Please continue taking Atorvastatin 40mg every evening
Please continue taking Metoprolol XL 150mg daily
Please continue taking Digoxin 0.25 mcg daily
Please continue taking Lisinopril 2.5mg daily
Please take your other medications as prescribed. Upon 
discharge, please arrange to have a cardiac event monitor to 
monitor heart rate and atrial fibrillation. 

Please followup with Neurology and your primary care physician. 
Please follow up with Cardiology and consider seeing a 
cardiologist near your home (below is a list). With their 
assistance, you will be able to undergo a repeat ultrasound of 
the heart with cardioversion after sufficient time has passed on 
blood thinner medication. Please continue to work with physical 
therapy, occupational therapy, and speech therapy as outpatient 
(prescriptions provided). 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___